US04507241
To 0.155 g (1.16 mmoles) of AlCl3 in 20 mL of THF was added 5.0 g (3.48 mmoles) of dodecyl MgBr (0.697 mmole/g). This mixture was added to 1.00 g (3.17 mmoles) of 2,3-dibromo-1,4-naphthoquinone in 50 mL of THF. A brown solution was obtained. Then, 0.40 g (2.94 mmoles) of ZnCl2 was added and the mixture was stirred overnight. The mixture was poured into 100 mL of NH4Cl solution, extracted with 3×50 mL of ether, dried over MgSO4, filtered, and solvent was removed. The residue was flash-chromatographed (on silica, toluene eluant). Thus, 0.390 g (0.76 mmole, 24%) of 2-n-dodecyl-3-bromo-1,4-naphthoquinone was obtained. mp 98° to 100° C. 1H NMR (δ, CDCl3): 8.11 (m,2H), 7.70 (m,2H), 2.90 (m,2H), 1.33 (br. s,20H), 0.90 (m,3H). IR (cm-1, CHCl3): 1678s, 1599m, 1579w, 1280s.

reactant | AlCl3 | 1.16 mmoles, 0.155 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 2,3-dibromo-1,4-naphthoquinone | 3.17 mmoles, 1.00 g | BrC=1C(C2=CC=CC=C2C(C1Br)=O)=O | C10H4Br2O2
reactant | NH4Cl | 100 mL | [NH4+].[Cl-]
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | ZnCl2 | 2.94 mmoles, 0.40 g | [Cl-].[Cl-].[Zn+2]
product | 2-n-dodecyl-3-bromo-1,4-naphthoquinone | 0.76 mmole, 0.390 g, 24% | C(CCCCCCCCCCC)C=1C(C2=CC=CC=C2C(C1Br)=O)=O | C22H29BrO2
